* hitkit post processing done
************************************************************************
* auCdl Netlist:
* 
* Library Name:  FBIAS
* Top Cell Name: fecg_bandgap3_layout
* View Name:     schematic
* Netlisted on:  May 26 20:49:30 2026
************************************************************************

*.EQUATION
*.LDD
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PRIMLIB
* Cell Name:    cpolyc
* View Name:    schematic
************************************************************************

.SUBCKT cpolyc MINUS PLUS SUB area=100p perimeter=40u
*.PININFO MINUS:B PLUS:B SUB:B
CC1 MINUS SUB $[CP]
CC0 MINUS PLUS $[CPOLYA] $A=(area)*1e+12 $P=(perimeter)*1e+6
.ENDS

************************************************************************
* Library Name: FBIAS
* Cell Name:    fecg_bandgap3_layout
* View Name:    schematic
************************************************************************

.SUBCKT fecg_bandgap3_layout BG_REF BIAS GNDA VDDA
*.PININFO BG_REF:B BIAS:B GNDA:B VDDA:B
CC0 BG_REF Vo1 $[CPOLYA] $P=(235.5u)*1e+6 $A=(3.47n)*1e+12
QQ3<0> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<1> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<2> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<3> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<4> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<5> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<6> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<7> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<8> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<9> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<10> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<11> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<12> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<13> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<14> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<15> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<16> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<17> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<18> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<19> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<20> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<21> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<22> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<23> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<24> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<25> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<26> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<27> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<28> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<29> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ3<30> GNDA GNDA GNDA PNPVERT10 area=(1)*1e-12
QQ1<0> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<1> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<2> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<3> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<4> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<5> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<6> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<7> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<8> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<9> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<10> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<11> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<12> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<13> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<14> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<15> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<16> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<17> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<18> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<19> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<20> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<21> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<22> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<23> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<24> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<25> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<26> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<27> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<28> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<29> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ1<30> GNDA GNDA U PNPVERT10 area=(1)*1e-12
QQ0 GNDA GNDA X PNPVERT10 area=(1)*1e-12
MMP9<0> S2 S2 S2 S2 pmos4 L=0.35u M=1 W=10u
MMP9<1> S2 S2 S2 S2 pmos4 L=0.35u M=1 W=10u
MMP9<2> S2 S2 S2 S2 pmos4 W=10u L=0.35u M=1
MMP9<3> S2 S2 S2 S2 pmos4 M=1 L=0.35u W=10u
MMP12<0> VDDA VDDA VDDA VDDA pmos4 W=5u M=1 L=10u
MMP12<1> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=5u
MMP12<2> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=5u
MMP12<3> VDDA VDDA VDDA VDDA pmos4 W=5u L=10u M=1
MMP12<4> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=5u
MMP12<5> VDDA VDDA VDDA VDDA pmos4 W=5u M=1 L=10u
MMP12<6> VDDA VDDA VDDA VDDA pmos4 W=5u M=1 L=10u
MMP12<7> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=5u
MMP12<8> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=5u
MMP12<9> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=5u
MMP12<10> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=5u
MMP12<11> VDDA VDDA VDDA VDDA pmos4 W=5u M=1 L=10u
MMP12<12> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=5u
MMP12<13> VDDA VDDA VDDA VDDA pmos4 W=5u L=10u M=1
MMP12<14> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=5u
MMP12<15> VDDA VDDA VDDA VDDA pmos4 W=5u L=10u M=1
MMP12<16> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=5u
MMP12<17> VDDA VDDA VDDA VDDA pmos4 W=5u M=1 L=10u
MMP12<18> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=5u
MMP12<19> VDDA VDDA VDDA VDDA pmos4 W=5u L=10u M=1
MMP12<20> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=5u
MMP12<21> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=5u
MMP12<22> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=5u
MMP12<23> VDDA VDDA VDDA VDDA pmos4 W=5u M=1 L=10u
MMP12<24> VDDA VDDA VDDA VDDA pmos4 W=5u L=10u M=1
MMP12<25> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=5u
MMP12<26> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=5u
MMP12<27> VDDA VDDA VDDA VDDA pmos4 W=5u L=10u M=1
MMP12<28> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=5u
MMP12<29> VDDA VDDA VDDA VDDA pmos4 W=5u M=1 L=10u
MMP12<30> VDDA VDDA VDDA VDDA pmos4 W=5u L=10u M=1
MMP12<31> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=5u
MMP12<32> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=5u
MMP12<33> VDDA VDDA VDDA VDDA pmos4 W=5u M=1 L=10u
MMP10<0> S S S S pmos4 W=25u L=4u M=1
MMP10<1> S S S S pmos4 W=25u L=4u M=1
MMP10<2> S S S S pmos4 W=25u M=1 L=4u
MMP10<3> S S S S pmos4 W=25u M=1 L=4u
MMP8 vv Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP7 S2 Vm1 VDDA VDDA pmos4 W=5u M=1 L=10u
MMP6<0> Vs vv S2 S2 pmos4 W=10u M=1 L=0.35u
MMP6<1> Vs vv S2 S2 pmos4 W=10u M=1 L=0.35u
MMP5<0> D2 BG_REF S2 S2 pmos4 M=1 L=0.35u W=10u
MMP5<1> D2 BG_REF S2 S2 pmos4 M=1 L=0.35u W=10u
MMP2<0> Vm1 Vm1 VDDA VDDA pmos4 W=5u L=10u M=1
MMP2<1> Vm1 Vm1 VDDA VDDA pmos4 W=5u M=1 L=10u
MMP4<0> BG_REF Vm1 VDDA VDDA pmos4 W=5u M=1 L=10u
MMP4<1> BG_REF Vm1 VDDA VDDA pmos4 M=1 L=10u W=5u
MMP4<2> BG_REF Vm1 VDDA VDDA pmos4 W=5u L=10u M=1
MMP4<3> BG_REF Vm1 VDDA VDDA pmos4 M=1 L=10u W=5u
MMP4<4> BG_REF Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP4<5> BG_REF Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP4<6> BG_REF Vm1 VDDA VDDA pmos4 W=5u M=1 L=10u
MMP4<7> BG_REF Vm1 VDDA VDDA pmos4 W=5u L=10u M=1
MMP4<8> BG_REF Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP4<9> BG_REF Vm1 VDDA VDDA pmos4 M=1 L=10u W=5u
MMP4<10> BG_REF Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP4<11> BG_REF Vm1 VDDA VDDA pmos4 W=5u L=10u M=1
MMP4<12> BG_REF Vm1 VDDA VDDA pmos4 W=5u L=10u M=1
MMP4<13> BG_REF Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP4<14> BG_REF Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP4<15> BG_REF Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP4<16> BG_REF Vm1 VDDA VDDA pmos4 W=5u L=10u M=1
MMP4<17> BG_REF Vm1 VDDA VDDA pmos4 M=1 L=10u W=5u
MMP4<18> BG_REF Vm1 VDDA VDDA pmos4 W=5u M=1 L=10u
MMP4<19> BG_REF Vm1 VDDA VDDA pmos4 M=1 L=10u W=5u
MMP4<20> BG_REF Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP4<21> BG_REF Vm1 VDDA VDDA pmos4 W=5u L=10u M=1
MMP4<22> BG_REF Vm1 VDDA VDDA pmos4 M=1 L=10u W=5u
MMP4<23> BG_REF Vm1 VDDA VDDA pmos4 W=5u M=1 L=10u
MMP4<24> BG_REF Vm1 VDDA VDDA pmos4 W=5u M=1 L=10u
MMP4<25> BG_REF Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP4<26> BG_REF Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP4<27> BG_REF Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP4<28> BG_REF Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP4<29> BG_REF Vm1 VDDA VDDA pmos4 W=5u M=1 L=10u
MMP1<0> Vo1 X S S pmos4 M=1 L=4u W=25u
MMP1<1> Vo1 X S S pmos4 W=25u L=4u M=1
MMP1<2> Vo1 X S S pmos4 L=4u M=1 W=25u
MMP1<3> Vo1 X S S pmos4 W=25u L=4u M=1
MMP1<4> Vo1 X S S pmos4 M=1 L=4u W=25u
MMP1<5> Vo1 X S S pmos4 W=25u M=1 L=4u
MMP1<6> Vo1 X S S pmos4 M=1 L=4u W=25u
MMP1<7> Vo1 X S S pmos4 W=25u L=4u M=1
MMP3<0> S Vm1 VDDA VDDA pmos4 M=1 L=10u W=5u
MMP3<1> S Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP3<2> S Vm1 VDDA VDDA pmos4 M=1 L=10u W=5u
MMP3<3> S Vm1 VDDA VDDA pmos4 W=5u M=1 L=10u
MMP3<4> S Vm1 VDDA VDDA pmos4 W=5u L=10u M=1
MMP3<5> S Vm1 VDDA VDDA pmos4 M=1 L=10u W=5u
MMP3<6> S Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP3<7> S Vm1 VDDA VDDA pmos4 W=5u L=10u M=1
MMP3<8> S Vm1 VDDA VDDA pmos4 M=1 L=10u W=5u
MMP3<9> S Vm1 VDDA VDDA pmos4 W=5u M=1 L=10u
MMP3<10> S Vm1 VDDA VDDA pmos4 W=5u L=10u M=1
MMP3<11> S Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP3<12> S Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP3<13> S Vm1 VDDA VDDA pmos4 W=5u M=1 L=10u
MMP3<14> S Vm1 VDDA VDDA pmos4 W=5u L=10u M=1
MMP3<15> S Vm1 VDDA VDDA pmos4 W=5u L=10u M=1
MMP3<16> S Vm1 VDDA VDDA pmos4 W=5u M=1 L=10u
MMP3<17> S Vm1 VDDA VDDA pmos4 W=5u M=1 L=10u
MMP3<18> S Vm1 VDDA VDDA pmos4 L=10u M=1 W=5u
MMP3<19> S Vm1 VDDA VDDA pmos4 W=5u M=1 L=10u
MMP0<0> D1 Y S S pmos4 W=25u M=1 L=4u
MMP0<1> D1 Y S S pmos4 W=25u M=1 L=4u
MMP0<2> D1 Y S S pmos4 M=1 L=4u W=25u
MMP0<3> D1 Y S S pmos4 M=1 L=4u W=25u
MMP0<4> D1 Y S S pmos4 W=25u L=4u M=1
MMP0<5> D1 Y S S pmos4 W=25u M=1 L=4u
MMP0<6> D1 Y S S pmos4 W=25u M=1 L=4u
MMP0<7> D1 Y S S pmos4 M=1 L=4u W=25u
RR50 GNDA GNDA $[RPOLYH] $L=52.5u $W=2u
RR47 X net41 $[RPOLYH] $W=2u $L=52.5u
RR46 net41 net40 $[RPOLYH] $L=52.5u $W=2u
RR45 net40 net39 $[RPOLYH] $L=52.5u $W=2u
RR44 net39 net38 $[RPOLYH] $W=2u $L=52.5u
RR43 net38 net37 $[RPOLYH] $L=52.5u $W=2u
RR42 net37 net36 $[RPOLYH] $W=2u $L=52.5u
RR41 net36 net35 $[RPOLYH] $W=2u $L=52.5u
RR40 net35 net34 $[RPOLYH] $L=52.5u $W=2u
RR39 net34 net33 $[RPOLYH] $W=2u $L=52.5u
RR38 net33 net32 $[RPOLYH] $L=52.5u $W=2u
RR37 net32 net31 $[RPOLYH] $L=52.5u $W=2u
RR36 net31 net30 $[RPOLYH] $W=2u $L=52.5u
RR35 net30 net29 $[RPOLYH] $W=2u $L=52.5u
RR34 net29 net28 $[RPOLYH] $W=2u $L=52.5u
RR33 net28 net27 $[RPOLYH] $L=52.5u $W=2u
RR32 net27 net26 $[RPOLYH] $W=2u $L=52.5u
RR31 net26 net3 $[RPOLYH] $L=52.5u $W=2u
RR30 net3 net25 $[RPOLYH] $W=2u $L=52.5u
RR29 net25 net1 $[RPOLYH] $W=2u $L=52.5u
RR27 Y net24 $[RPOLYH] $L=52.5u $W=2u
RR26 net24 net23 $[RPOLYH] $L=52.5u $W=2u
RR25 net23 net22 $[RPOLYH] $L=52.5u $W=2u
RR24 net22 net21 $[RPOLYH] $W=2u $L=52.5u
RR23 net21 net20 $[RPOLYH] $W=2u $L=52.5u
RR22 net20 net19 $[RPOLYH] $W=2u $L=52.5u
RR21 net19 net18 $[RPOLYH] $W=2u $L=52.5u
RR20 net18 net17 $[RPOLYH] $L=52.5u $W=2u
RR19 net17 net16 $[RPOLYH] $L=52.5u $W=2u
RR18 net16 net15 $[RPOLYH] $W=2u $L=52.5u
RR17 net15 net14 $[RPOLYH] $W=2u $L=52.5u
RR16 net14 net13 $[RPOLYH] $W=2u $L=52.5u
RR15 net13 net12 $[RPOLYH] $L=52.5u $W=2u
RR14 net12 net11 $[RPOLYH] $W=2u $L=52.5u
RR13 net11 net10 $[RPOLYH] $L=52.5u $W=2u
RR12 net10 net9 $[RPOLYH] $L=52.5u $W=2u
RR11 net9 net8 $[RPOLYH] $L=52.5u $W=2u
RR10 net8 net7 $[RPOLYH] $L=52.5u $W=2u
RR9 net7 net6 $[RPOLYH] $W=2u $L=52.5u
RR8 net6 BG_REF $[RPOLYH] $W=2u $L=52.5u
RR6 net4 net2 $[RPOLYH] $W=2u $L=52.5u
RR5 Y net4 $[RPOLYH] $W=2u $L=52.5u
RR48 GNDA GNDA $[RPOLYH] $L=52.5u $W=2u
RR7 net2 U $[RPOLYH] $W=2u $L=52.5u
RR28 net1 BG_REF $[RPOLYH] $L=52.5u $W=2u
MMN12<0> D2 D2 GNDA GNDA nmos4 M=1 L=10u W=10u
MMN12<1> D2 D2 GNDA GNDA nmos4 W=10u L=10u M=1
MMN10<0> BIAS BIAS BIAS GNDA nmos4 M=1 L=10u W=5u
MMN10<1> BIAS BIAS BIAS GNDA nmos4 W=5u M=1 L=10u
MMN8 vv vv GNDA GNDA nmos4 W=0.5u M=1 L=10u
MMN7 BG_REF Vs Vo2 GNDA nmos4 W=5u M=1 L=10u
MMN4<0> Vm1 BIAS GNDA GNDA nmos4 W=5u M=1 L=10u
MMN4<1> Vm1 BIAS GNDA GNDA nmos4 W=5u L=10u M=1
MMN3<0> BIAS BIAS GNDA GNDA nmos4 M=1 L=10u W=5u
MMN3<1> BIAS BIAS GNDA GNDA nmos4 L=10u M=1 W=5u
MMN2 Vo2 Vo1 GNDA GNDA nmos4 W=5u M=2 L=1u
MMN1<0> D1 D1 GNDA GNDA nmos4 L=10u M=1 W=10u
MMN1<1> D1 D1 GNDA GNDA nmos4 M=1 L=10u W=10u
MMN0<0> Vo1 D1 GNDA GNDA nmos4 W=10u M=1 L=10u
MMN0<1> Vo1 D1 GNDA GNDA nmos4 L=10u M=1 W=10u
MMN11<0> Vs D2 GNDA GNDA nmos4 L=10u M=1 W=10u
MMN11<1> Vs D2 GNDA GNDA nmos4 W=10u L=10u M=1
.ENDS

